US06201129B1
A solution of benzyl pyrrole-2-carboxylate (0.201 g, 1.0 mmol) and benzyl 5-acetoxymethyl-4-acetyl-3-methylpyrrole-2-carboxylate (0.331 g, 1.0 mmol) in 1,2-dichloromethane (10 cm3) was heated under reflux and stirred with Montmorillonite clay (1 g) for 7 h. The reaction was followed to completion by TLC. After the clay had been filtered off and washed well with 1,2-dichloroethane, evaporation of the combined filtrates under reduced pressure gave an oil. This was submitted to column chromatography eluting with (5-50%) ethyl acetate in hexane to give Dibenzyl 3,4-dimethylpyrrolo[2,3-f]indole-2,6-dicarboxylate (isomer I) as yellow crystals after crystallization from ethyl acetate-petroleum ether (0.019 g, 4.20%), m.p. 210-212° C. (Found: C, 73.50; H, 5.29; N, 6.13. C28H24N2O4 requires C, 73.62; H, 5.49; N, 6.36%); δH ([2H6]-DMSO) 11.17 (1H, s, 5-NH), 11.02 (1H, s, 1-NH), 7.57-7.34 (11H, m, 2×ArH and 8-H), 7.23 (1H, d J 1.5, 7-H), 5.42 (2H, s, CH2Ph), 5.40 (2H, s, CH2Ph), 2.93 (3H, s, 4-CH3), 2.87 (3H, s, 3-CH3); m/z (%) 452 (68, M+), 344 (58), 236 (17), and 91 (100); and Dibenzyl 3,4-dimethylpyrrolo[3,2-f]indole-2,6-dicarboxylate (isomer II) as yellow crystals after crystallization from dichloromethane-petroleum ether (0.036 g, 7.96%), m.p. 184-186° C. (Found: C, 73.71; H, 5.59; N, 6.27. C28H24N2O4 requires C, 73.62; H, 5.49; N, 6.36%); δH ([2H6]-DMSO) 11.36 (1H, s, 7-NH), 10.99 (1H, s, 1-NH), 7.52 (4H, d J 7, O-ArH), 7.46-7.37 (7H, m, m and p-ArH and 8-H), 7.23 (1H, br s, 5-H), 5.40 (4H, s, 2× CH2Ph), 2.91 (3H, s, 3-CH3) and 2.86 (3H, s, 4-CH3); m/z (%) 452 (55, M+), 344 (59), 236 (10), and 91 (100). Further elution gave 2-(3′-acetyl-5′-benzoxycarbonyl-4-methylpyrrol-2′-ylmethyl)-5-benzoxycarbonylpyrrole as pale yellow crystals after crystallization from dichloromethane-petroleum ether (0.104 g, 22.13%), m.p. 141-143° C. (Found: C, 71.60; H, 5.59; N, 5.79. C28H26N2O5 requires C, 71.47; H, 5.57; N, 5.95%); δH (CDCl3) 10.22 (1H, s, 1-NH), 9.25 (1H, s, 1′-NH), 7.48-7.28 (10H, m, ArH), 6.83 (1H, dd J 2.5 and 4, 4-H), 6.05 (1H, dd J 2.5 and 4, 3-H), 5.28 (2H, s, CH2Ph), 5.26 (2H, s, CH2Ph), 4.13 (2H, s, CH2), 2.58 (3H, s, CH3, 2.49 (3H, s, COCH3); m/z (%) 470 (6, M+), 379 (45), 271 (32), 91 (100), 65 (61) and 43 (38) and 2,3-di(3′-acetyl-5′benzoyxcarbonyl-4′-methylpyrrole-2′-ylmethyl)-5-benzoxycarbonylpyrrole as an oil (0.0924 g, 25.01%); δH (CDCl3) 11.18 (1H, s, 1-NH), 10.46 (1H, s, NH), 9.31 (1H, s, NH), 7.42-7.27 (15H, m ArH), 6.61 (1H, d J 2, 4-H), 5.31 (2H, s, CH2Ph), 5.29 (2H, s, CH2 Ph), 5.22 (2H, s, CH2Ph), 4.13 (2H, s, 2-CH2), 4.05 (2H, s, 3-CH2), 2.57 (3H, s, CH3), 2.55 (3H, s, CH3), 2.51 (3H, s, CH3), 2.37 (3H, s, CH3); m/z (%) 739 (2, M+), 696 (20), 648 (27), 631 (20), 588 (95). (Found: M+739.2890. C44H41N3O8 requires 730.2893)

reactant | benzyl pyrrole-2-carboxylate | 1.0 mmol, 0.201 g | N1C(=CC=C1)C(=O)OCC1=CC=CC=C1 | C12H11NO2
reactant | benzyl 5-acetoxymethyl-4-acetyl-3-methylpyrrole-2-carboxylate | 1.0 mmol, 0.331 g | C(C)(=O)OCC1=C(C(=C(N1)C(=O)OCC1=CC=CC=C1)C)C(C)=O | C18H19NO5
product | Dibenzyl 3,4-dimethylpyrrolo[2,3-f]indole-2,6-dicarboxylate | CC=1C(=NC2=CC3=CC(=NC3=C(C21)C)C(=O)OCC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2 | C28H22N2O4
